US05804593
Preparation of 2(R)-[(4-methoxybenzenesulfonyl)amino]-3-(3-indolyl)-propanoic acid methyl ester
To a suspension of D-tryptophan methyl ester hydrochloride (4 mmol) in 40 mL of methylene chloride, magnetically stirred and cooled in an ice bath, under a nitrogen atmosphere, is added 8 mmol of NMM and 4 mmol of 4-methoxybenzene sulfonyl chloride. The mixture is allowed to come to ambient temperature overnight. It is diluted with ethyl acetate and washed twice with aqueous 10% HCl, then successively with water, 1M sodium bicarbonate, and brine. The organic solution is dried over sodium sulfate and concentrated to afford 1.05 g (65%) of a white solid, m.p. 120°-122° C.

reactant | D-tryptophan methyl ester hydrochloride | 4 mmol | Cl.COC([C@H](N)CC1=CNC2=CC=CC=C12)=O
reactant | NMM | 8 mmol | CN1CCOCC1 | C5H11NO
reactant | 4-methoxybenzene sulfonyl chloride | 4 mmol | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2(R)-[(4-methoxybenzenesulfonyl)amino]-3-(3-indolyl)-propanoic acid methyl ester | 1.05 g, 65% | COC([C@@H](CC1=CNC2=CC=CC=C12)NS(=O)(=O)C1=CC=C(C=C1)OC)=O | C19H20N2O5S
